US07253286B2
tert-Butyl 4-(((6-cyano-4-(3-fluoro-4-((phenoxycarbonyl)amino)phenoxy)-7-quinolyl)oxy)methyl)-1-piperidinecarboxylate
tert-Butyl 4-(((4-(4-amino-3-fluorophenoxy)-6-cyano-7-quinolyl)oxy)methyl)-1-piperidinecarboxylate (523 mg), pyridine (0.17 ml) and tetrahydrofuran (10 ml) were stirred while cooling on ice, and then phenyl chloroformate was added dropwise. Immediately after completion of the dropwise addition, the cooling bath was removed and the mixture was returned to room temperature. After 15 minutes of stirring, water and ethyl acetate were added for extraction. Silica gel was added to the extract and the solvent was distilled off under reduced pressure for adsorption. The reaction solution-adsorbed silica gel was purified by column chromatography (hexane:ethylacetate=1:1, followed by 1:2, ethyl acetate) in a dry column packed with silica gel, to obtain 490 mg of a yellow powder.

reactant | tert-Butyl 4-(((4-(4-amino-3-fluorophenoxy)-6-cyano-7-quinolyl)oxy)methyl)-1-piperidinecarboxylate | 523 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)F | C27H29FN4O4
reactant | pyridine | 0.17 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-(((6-cyano-4-(3-fluoro-4-((phenoxycarbonyl)amino)phenoxy)-7-quinolyl)oxy)methyl)-1-piperidinecarboxylate | 490 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCC1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC(=C(C=C1)NC(=O)OC1=CC=CC=C1)F | C34H33FN4O6
